US07932271B2
2-[[(4-Chlorophenyl)thio]-(2,5-difluorophenyl)methyl]-1-methyl-1H-benzimidazole
Trifluoroacetic acid (2.0 ml) was added to the 2-[(t-butoxycarbonyloxy)-(2,5-difluorophenyl)methyl]-1-methyl-1H-benzimidazole (204 mg, 0.545 mmol) obtained in Referential Example 13. The resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure. Dioxane was added to the residue, followed by further concentration under reduced pressure. The residue was dissolved in thionyl chloride (1.0 ml). One drop of dimethylformamide was added to the resulting solution. The resulting mixture was stirred for 16 hours at room temperature. The reaction mixture was concentrated under reduced pressure. Dioxane was added to the residue and the resulting mixture was concentrated further under reduced pressure. The residue was dissolved in dimethylformamide (5.0 ml). After addition of 4-chlorobenzenethiol (118 mg, 0.82 mmol) and potassium carbonate (451 mg, 3.27 mmol), the resulting mixture was stirred at 50° C. for 2 hours. The reaction mixture was then allowed to stand at room temperature and ethyl acetate (60 ml) was added thereto. The resulting mixture was washed with water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by silica gel chromatography (hexane:ethyl acetate=10:1 to 5:1) to give the title compound (195 mg, 89%) as a colorless oil.

reactant | Trifluoroacetic acid | 2.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-[(t-butoxycarbonyloxy)-(2,5-difluorophenyl)methyl]-1-methyl-1H-benzimidazole | 0.545 mmol, 204 mg | C(C)(C)(C)OC(=O)OC(C1=NC2=C(N1C)C=CC=C2)C2=C(C=CC(=C2)F)F | C20H20F2N2O3
reactant | 4-chlorobenzenethiol | 0.82 mmol, 118 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 3.27 mmol, 451 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 2-[[(4-Chlorophenyl)thio]-(2,5-difluorophenyl)methyl]-1-methyl-1H-benzimidazole | 195 mg, 89% | ClC1=CC=C(C=C1)SC(C1=NC2=C(N1C)C=CC=C2)C2=C(C=CC(=C2)F)F | C21H15ClF2N2S
